US07304081B2
A mixture of ethyl 1-(6-chloropyridin-3-yl)cyclopropanecarboxylate (69.8 mg, 0.309 mmol) and pyrrolidine (250.0 μL, 3.0 mmol) in a sealed tube was heated at 100° C. for 4 hours. Then the excess pyrrolidine in the mixture was removed under reduced pressure. The residue was purified by flash chromatography column to afford ethyl 1-(6-pyrrolidin-1-ylpyridin-3-yl)cyclopropanecarboxylate.

reactant | ethyl 1-(6-chloropyridin-3-yl)cyclopropanecarboxylate | 0.309 mmol, 69.8 mg | ClC1=CC=C(C=N1)C1(CC1)C(=O)OCC | C11H12ClNO2
reactant | pyrrolidine | 3.0 mmol, 250.0 μL | N1CCCC1 | C4H9N
product | ethyl 1-(6-pyrrolidin-1-ylpyridin-3-yl)cyclopropanecarboxylate | N1(CCCC1)C1=CC=C(C=N1)C1(CC1)C(=O)OCC | C15H20N2O2
